US04921529
5.6 g (0.082 mol) of 1,2,4-triazole are added to a suspension of 11.3 g (0.082 mol) of potassium carbonate in 50 ml of dimethylformamide. 8.8 g (0.038 mol) of 2-(1,1-dimethyl-ethyl)-2-(3-phenoxypropyl)-oxirane are then added dropwise to the mixture, and the mixture is heated at 130° to 140° C. for 12 hours. After cooling to room temperature, the reaction mixture is filtered. The filtrate is concentrated under reduced pressure and the residue which remains is dissolved in methylene chloride. The organic phase is washed three times with water and, after drying, is concentrated. The residue is recrystallized from n-hexane. 8.1 g (70.3% of theory) of 2,2-dimethyl-6-phenoxy-3-(1,2,4-triazol-1-yl-methyl)-hexan-3-ol of melting point 106° C. are obtained in this manner.

reactant | 1,2,4-triazole | 0.082 mol, 5.6 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.082 mol, 11.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(1,1-dimethyl-ethyl)-2-(3-phenoxypropyl)-oxirane | 0.038 mol, 8.8 g | CC(C)(C)C1(OC1)CCCOC1=CC=CC=C1 | C15H22O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-6-phenoxy-3-(1,2,4-triazol-1-yl-methyl)-hexan-3-ol | 8.1 g, 70.3% | CC(C)(C(CCCOC1=CC=CC=C1)(O)CN1N=CN=C1)C | C17H25N3O2
